US05401734
To a solution of benzhydryl 7β-amino-3-chloromethyl-3-cephem-4-carboxylate hydrochloride (22.6 g) and N-trimethylsilylacetamide (25.0 g) in tetrahydrofuran (250 ml) was added 2-(5-amino-1,2,4-thiadiazol-3-yl) -2-carboxymethoxyiminoacetic methanesulfonic anhydride (syn isomer) (19.8 g) at 0°-5° C. under Stirring. The stirring was continued for an hour at the same temperature. The reaction mixture was poured into a mixture of ethyl acetate (500 ml) and water (500 ml). The organic layer was separated, washed with water twice and a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and then concentrated in vacuo. To the residue was added diethyl ether and then the resulting precipitates were collected by filtration to give benzhydryl 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-carboxymethoxyiminoacetamido]-3-chloromethyl-3-cephem-4-carboxylate (syn isomer) (17.2 g).

reactant | benzhydryl 7β-amino-3-chloromethyl-3-cephem-4-carboxylate hydrochloride | 22.6 g | Cl.N[C@H]1[C@@H]2N(C(=C(CS2)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O
reactant | N-trimethylsilylacetamide | 25.0 g | C[Si](NC(C)=O)(C)C | C5H13NOSi
reactant | 2-(5-amino-1,2,4-thiadiazol-3-yl) -2-carboxymethoxyiminoacetic methanesulfonic anhydride | 19.8 g | CS(=O)(=O)OC(C(=NOCC(=O)O)C1=NSC(=N1)N)=O | C7H8N4O7S2
reactant | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | water | 500 ml | O | H2O
product | benzhydryl 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-carboxymethoxyiminoacetamido]-3-chloromethyl-3-cephem-4-carboxylate | 17.2 g | NC1=NC(=NS1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOCC(=O)O | C27H23ClN6O7S2
